US09428509B2
(R)-(4-Amino-3-methoxyphenyl)(2-methylaziridin-1-yl)methanone
To a solution of (R)-(3-methoxy-4-nitrophenyl)(2-methylaziridin-1-yl)methanone (1 equiv) in MeOH (0.22 M) was added 10% palladium on carbon (18 weight %). The reaction was stirred at room temperature for 1 h under hydrogen. The mixture was filtered through a pad of celite and concentrated to give the desired product (94% yield) as a white solid. MS (ESI) m/z 207.1 [M+H]+.

reactant | (R)-(3-methoxy-4-nitrophenyl)(2-methylaziridin-1-yl)methanone | 1 equiv | COC=1C=C(C=CC1[N+](=O)[O-])C(=O)[N@]1C(C1)C | C11H12N2O4
solvent | MeOH | 0.22 M | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | (R)-(4-Amino-3-methoxyphenyl)(2-methylaziridin-1-yl)methanone | 94% yield | NC1=C(C=C(C=C1)C(=O)[N@]1C(C1)C)OC | C11H14N2O2
